US04264605
1-(2,6-DICHLOROBENZOYL)-3-(6-(4-CHLOROPHENYLTHIO)-3-PYRIDINYL)UREA
2,6-Dichlorobenzoyl isocyanate (2.16 grams; 0.01 mole) and 6-(4-chlorophenylthio)-3-aminopyridine (2.37 grams; 0.01 mole) were mixed in dry ethyl acetate and stirred for 4 hours. The ethyl acetate was removed in vacuo. TLC showed a 3-spot mixture. The reaction mixture was then poured over a silica column with ethyl acetate, and the major spot collected. It was crystallized from ethyl acetate-hexanes, yield 1.5 g., m.p. 160°-162° C.

reactant | 2,6-Dichlorobenzoyl isocyanate | 0.01 mole, 2.16 grams | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
reactant | 6-(4-chlorophenylthio)-3-aminopyridine | 0.01 mole, 2.37 grams | ClC1=CC=C(C=C1)SC1=CC=C(C=N1)N | C11H9ClN2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-DICHLOROBENZOYL)-3-(6-(4-CHLOROPHENYLTHIO)-3-PYRIDINYL)UREA | ClC1=C(C(=O)NC(=O)NC=2C=NC(=CC2)SC2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C19H12Cl3N3O2S
